Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
low BP
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ h/o Lupus, embolic strokes s/p recent stroke on coumadin, 
metastatic colon cancer on chemotherapy s/p renal transplant on 
PD admitted from clinic with hypotension. Patient presented to 
___ today for INR check, but went to ___ clinic. She 
noted that she was slightly dizzy with some blurred vision while 
walking through the parking lot. In ___ clinic, they 
checked her INR, and then decided to start her on cycle 1 of 
erbitux. She was given benadryl as premedication.  
.  
Her blood pressure was then found to be low 70/40. The patient's 
typically BP runs in SBP ___ and there is always difficulty 
obtaining accurate BP's. Because of this the patient was kept in 
clinic for gentle fluids with the goal of returning her SBP to 
mid 80's. She was also given decadron in the chance that she was 
having a reaction to erbitux. As her blood pressure did not 
increase adequately, it was decided to admit her. In addition, 
she was drowsy in clinic - ___ to Benadryl?, but was becoming 
increasingly alert as the benadryl wore off.  
.  
The patient now states that her mental status is greatly 
improved, at baseline, "feels normal". She also reports that she 
has increased the amount of fluid she removes in PD in order to 
dec peripheral edema. In addition, she missed her midodrine 
doses today. She also notes that yesterday she had poor PO 
intake secondary to the heat and mild nausea. Denies any 
vomting, no chills, no fever, minimal diarrhea.  
.  
In ___, the patient was admitted with fever and hypotension. 
She was found to have CDiff colitis in early ___, discharged 
on vancomycin PO - which she has finished. Several days ago, she 
was admitted to the neurology service for acute/subacute embolic 
stroke. In the work up, she was found to have a filamentous 
structure on the right atrial catheter c/w thrombus and was 
started on anticoagulation.  
.
 
Clinic course:  
# VS: 4:45pm BP 76/58 P ___  
# Meds/IVF: 1.5L NS slowly, benadryl as premedication with 
erbitux  
.  
ROS:  
(+) mild nausea, mild diarrhea, DOE but at baseline, + 
peripheral edema but dec over the past week, + leg weakness when 
climbing stairs (at baseline)  
(-) no abominal pain, no lupus symptoms, no rash, no worsening 
joint swelling, no hematochezia, no melena 

 
Past Medical History:
.  
POncH  
# Stage III metstatic colon adenocarcinoma (dx ___: LVI, 
venous, perineural invasion; FDG-avid RUL, L adrenal gland mass 
(___), brain mets  
--s/p resection  
--s/p irinotecan X2 doses dc'd ___ intractable diarrhea  
--s/p capecitabine, oxaliplatin x3 cycles  
--s/p fluorouracil, leucovorin, oxaliplatin (Folfox) ___  
.  
PMH  
# ESRD s/p failed renal transplants x2 (___), on PD x3 
daily, immunosuppressants d/c'd on ___ given increasing 
creatinine and in setting of chemo treatment  
# SLE on prednisone 5mg daily  
# Hyperlipidemia  
# Osteoporosis  
# Mitral regurgitation  
# Dyspepsia  
# Seizure disorder s/p stroke (___)  

 
Social History:
___
Family History:
This is largely unknown to the patient. There are multiple 
cancers in the family.

 
Physical Exam:
VS: T 97.3, BP 95/78, HR 100, RR 20, O2sat 97 on RA  
Gen: NAD  
HEENT: NCAT, MMM, OP clear, neck supple, mildly dysarthric 
speech, mild ___ flattening on the left  
CV: RRR, S1S2, ___ murmur  
Chest: coughing with deep inspiration, crackles ___ up on right 
side posteriorly, no labored breathing  
Abd: Soft, NT, distended, no rebound, no guarding; no TTP, NABS  

Ext: 2+ pitting edema B  
Neuro: AOx3, attention intact, strength ___ bilaterally, CN II- 
XII intact  

 
Pertinent Results:
___ 06:08PM BLOOD WBC-9.6 RBC-3.29* Hgb-10.6* Hct-32.4* 
MCV-98 MCH-32.1* MCHC-32.7 RDW-17.7* Plt ___
___ 05:15AM BLOOD WBC-9.7 RBC-3.23* Hgb-10.4* Hct-32.1* 
MCV-99* MCH-32.1* MCHC-32.3 RDW-17.7* Plt ___

___ 12:23PM BLOOD ___
___ 11:56AM BLOOD ___
___ 06:08PM BLOOD Glucose-145* UreaN-33* Creat-8.4* Na-134 
K-4.1 Cl-100 HCO3-27 AnGap-11
___ 05:15AM BLOOD Glucose-141* UreaN-36* Creat-8.3* Na-134 
K-3.7 Cl-100 HCO3-28 AnGap-10
___ 06:08PM BLOOD Calcium-7.4* Phos-3.4 Mg-2.0
___ 05:15AM BLOOD Calcium-7.3* Phos-3.2 Mg-2.___y the time the patient reached the floor, her BP had returned 
to normal and she was feeling well. She was observed overnight, 
restarted on Midodrine and seen by the renal team. The renal 
team recomended reducing the amount of fluid removed at each 
session. She had no further episodes of low BP. In addition, her 
INR was monitored. On the day of discharge, it was 3.6 and she 
was instructed to hold her evening dose. These instructions were 
also communicated to the ___ anti-coagulation nurses; they will 
call her with further instructions.
 
Medications on Admission:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily) for ___ days.  
2. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO MWF (___).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day).  
5. Midodrine 2.5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 

day).  
6. Potassium Chloride 20 mEq Packet Sig: Two (2) Packet PO DAILY 

(Daily).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
 
Discharge Medications:
1. Midodrine 2.5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO MWF (___).  
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
8. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day: 
take at 4pm at night.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Low Blood Pressure
End Stage Renal Disease

 
Discharge Condition:
improved

 
Discharge Instructions:
You were admitted for low blood pressure. You were given fluids 
and restarted on Midodrine. Your blood pressure improved. The 
renal team also recomended taking off less fluid with dialysis 
to avoid low blood pressures.
.
You should continued taking coumadin. Your INR was elevated 
today. You should NOT take any warfarin (coumadin) tonight. The 
___ clinic will call you to adjust the dose. You 
will need to have your INR checked on ___.
.
If you have dizziness, light-headedness, fevers or chills, you 
should return to the emergency room.
 
Followup Instructions:
___